US04954508
3-Cyclohexyl-4,7-dihydro-1,6-dimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid 2-methoxyethyl ester.
Starting from 3-cyclohexyl-1-methyl-5-pyrazolamine and 2-methoxyethyl-2-(2-nitrobenzyliden)acetoacetate in about equimolar proportions.

reactant | 3-cyclohexyl-1-methyl-5-pyrazolamine | C1(CCCCC1)C1=NN(C(=C1)N)C | C10H17N3
reactant | 2-methoxyethyl-2-(2-nitrobenzyliden)acetoacetate | COCCOC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C14H15NO6
product | 3-Cyclohexyl-4,7-dihydro-1,6-dimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid 2-methoxyethyl ester | COCCOC(=O)C=1C(C2=C(NC1C)N(N=C2C2CCCCC2)C)C2=C(C=CC=C2)[N+](=O)[O-] | C24H30N4O5
